US08530674B2
(S)-(−)-3-methylamino-1-(2-thienyl)-propan-1-ol (20.0 g) and 1-fluoronaphthalene (68.3 g) were charged into a 4-neck round bottomed flask. Potassium tert-butoxide (13.1 g) and DMSO (36.0 g) were then added, and the resulting mixture was heated to 60° C. for 8 hours. After completion of the reaction, the reaction mixture was cooled down and washed with water. Layers were separated, and the organic layer was further extracted with 32% HCl(aq) (14.7 g) to separate Duloxetine® from 1-floronaphthalene. The acidic aqueous layer was adjusted to pH 12-13 with 45% NaOH(aq) (17.6 g) to obtain Duloxetine® in a free base form as an oily liquid (31.3 g, 90%). Optical purity of the resulting Duloxetine® measured by chiral HPLC was 95% e.e.

reactant | (S)-(−)-3-methylamino-1-(2-thienyl)-propan-1-ol | 20.0 g | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
reactant | 1-fluoronaphthalene | 68.3 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | Potassium tert-butoxide | 13.1 g | CC(C)([O-])C.[K+]
solvent | DMSO | 36.0 g | CS(=O)C | C2H6OS
product | Duloxetine | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3 | C18H19NOS
